US07534797B2
cis-{4-[4-Amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclohexyl}-methanol
Into the THF (I mL) solution of cis-4-[4-amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclohexanecarboxylic acid ethyl ester (13.3 mg, 0.0271 mmol) was added dropwise LiAlH4 (1 M in THF, 203 μL, 0.75 eq.) at 0° C. under N2. After stirring at rt for 2 h, the reaction mixture was treated with saturated potassium sodium tartarate solution (5 mL) and extracted with EtOAc (2×10 mL). The extracts were washed with H2O (10 mL) and brine (10 mL), and dried over MgSO4. The drying agent was filtered off, and the filtrate was concentrated in vacuo. The crude material thus obtained was purified by preparative TLC (silica gel, eluting with 7% MeOH/CH2Cl2) to yield the title compound as beige powder. 1H NMR (CDCl3, 400 MHz): δ=1.77-2.02 (m, 9H), 3.77-3.78 (d, 2H, J=7.2 Hz), 4.77-4.82 (m, 1H), 5.30 (brs, 2H), 7.24 (s, 1H), 7.46-7.57 (m, 3H), 7.67-7.70 (dd, 1H, J=1.6 & 8.4 Hz), 7.89-7.93 (m, 2H), 8.18-8.20 (m, 2H), 8.25-8.28 (m, 2H), 8.36 (s, 1 H). MS (ES+): 450.2 [MH+]. HPLC: tR=2.5 min (polar—5 min).

reactant | cis-4-[4-amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclohexanecarboxylic acid ethyl ester | 0.0271 mmol, 13.3 mg | C(C)OC(=O)[C@@H]1CC[C@@H](CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C30H29N5O2
reactant | LiAlH4 | 1 M, 203 μL, 0.75 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | potassium sodium tartarate | 5 mL | C(C(O)C(O)C(=O)[O-])(=O)[O-].[Na+].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | cis-{4-[4-Amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclohexyl}-methanol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2CC[C@H](CC2)CO | C28H27N5O
